US09326987B2
6-(1H-Indol-4-yl)-4-{5-[(methyloxy)methyl]-1,3,4-oxadiazol-2-yl}-1H-indazole
4-[5-(Chloromethyl)-1,3,4-oxadiazol-2-yl]-6-(1H-indol-4-yl)-1-(phenylsulfonyl)-1H-indazole (25 mg, 0.051 mmol) was placed in methanol (1.5 ml, 37.1 mmol) and potassium carbonate (7.05 mg, 0.051 mmol) added. The mixture was heated under microwave irradiation at 110° C. for 20 mins. The solvent was removed and the residue purified by Mass Directed Automated Preparative HPLC to give the title compound as a white solid (3 mg).

reactant | 4-[5-(Chloromethyl)-1,3,4-oxadiazol-2-yl]-6-(1H-indol-4-yl)-1-(phenylsulfonyl)-1H-indazole | 0.051 mmol, 25 mg | ClCC1=NN=C(O1)C1=C2C=NN(C2=CC(=C1)C1=C2C=CNC2=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C24H16ClN5O3S
reactant | methanol | 37.1 mmol, 1.5 ml | CO | CH4O
reactant | potassium carbonate | 0.051 mmol, 7.05 mg | C([O-])([O-])=O.[K+].[K+]
product | 6-(1H-Indol-4-yl)-4-{5-[(methyloxy)methyl]-1,3,4-oxadiazol-2-yl}-1H-indazole | 3 mg | N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NNC2=C1)C=1OC(=NN1)COC | C19H15N5O2
